US04418065
3-(4-Chlorophenyl)-N,N-dimethyl-3-(3-pyridyl)allylamine (Method H)
Palladium acetylacetonate (9.3 mg, 0.03 mmol), 1,2-bis-(diphenylphosphino)ethane (17.5 mg, 0.04 mmol) and 3-acetoxy-3-(4-chlorophenyl)-3-(3-pyridyl)-1-propene (0.211 g, 0.73 mmol) was dissolved in tetrahydrofuran (2.2 ml) at room temperature under nitrogen. A solution of dimethylamine in tetrahydrofuran (3.2 ml of a 2.5 M solution) was added. The resulting solution was warmed to 55° C. and allowed to react for 1 h and 40 min. Evaporation of the solvent and work-up by preparative TLC (SiO2, ethyl acetate/hexane/triethylamine 49/49/2) gave 0.158 g (79%) of a Z/E mixture of the title compound. The Z/E ratio was determined by 1H NMR to 55/45.

reactant | 1,2-bis-(diphenylphosphino)ethane | 0.04 mmol, 17.5 mg | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | 3-acetoxy-3-(4-chlorophenyl)-3-(3-pyridyl)-1-propene | 0.73 mmol, 0.211 g | C(C)(=O)OC(C=C)(C=1C=NC=CC1)C1=CC=C(C=C1)Cl | C16H14ClNO2
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
catalyst | Palladium acetylacetonate | 0.03 mmol, 9.3 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
product | 3-(4-Chlorophenyl)-N,N-dimethyl-3-(3-pyridyl)allylamine | 0.158 g, 79% | ClC1=CC=C(C=C1)C(=CCN(C)C)C=1C=NC=CC1 | C16H17ClN2
